US06051712
In an analogous manner to that described in Example 44 e), by alkylating tert-butyl 2-methoxy-thiophenol with (RS)-2-(3-bromo-propoxy)-tetrahydro-pyran there was obtained (RS)-2-[3-(2-methoxy-phenylsulphanyl)-propoxy]-tetrahydro-pyran.

reactant | tert-butyl 2-methoxy-thiophenol | C(C)(C)(C)C=1C(=C(C=CC1)S)OC | C11H16OS
reactant | (RS)-2-(3-bromo-propoxy)-tetrahydro-pyran | BrCCCOC1OCCCC1 | C8H15BrO2
product | (RS)-2-[3-(2-methoxy-phenylsulphanyl)-propoxy]-tetrahydro-pyran | COC1=C(C=CC=C1)SCCCOC1OCCCC1 | C15H22O3S
